Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
___ edema, SOB 
.
 
Major Surgical or Invasive Procedure:
None
.

 
History of Present Illness:
___ with a history of heroin abuse on methadone maintenance and 
sober for > ___ year, ___, alcoholism, and heavy ___ use who 
presents with SOB and ___ edema. He reports that he ran out of 
his meds from his discharge 6 weeks ago. He was "giving up" on 
himself, so didn't refill his pills. He denies SI, however. He 
also was not controlling his sodium intake. He also report 
decreasing his alcohol to 1 six pack daily and no hard liquor. 
Finally, his LLE was more erythematous than his R, and he was 
treated for cellulitis there in the past.  
.  
In the ED initial vital signs were 97.6 153/92 96 26 93% on RA. 
A CXR showed pulmonary edema and the patient had ___ edema on 
exam. He received furosimide 20mg IV x1 and diuresed well. His 
serum alcohol level was positive. He was admitted for CHF 
exacerbation.  
.  
Review of Systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats. Denies headache, sinus 
tenderness, rhinorrhea or congestion. Denies chest pain or 
tightness, palpitations. Denies cough or wheezes. Denied nausea, 
vomiting, diarrhea, constipation or abdominal pain. No recent 
change in bowel or bladder habits. No dysuria. Denies 
arthralgias or myalgias. Denies rashes or skin breakdown. No 
numbness/tingling in extremities. No feelings of depression or 
anxiety. All other review of systems negative.  
.  

 
Past Medical History:
- Hepatitis C  
- Obesity  
- History of IVDU in the past, complicated by arm abscess  
- ___, EF 55-60%  
- Alcoholism  
- OSA on BiPAP IPAP 14, EPAP 10 with a backup rate of 8 Ultra 
Mirage full face mask  
- Cellulitis ___ s/p Bactrim + clindamycin  
- Former heroin abuse on methadone maintenance  
- ___ abuse  
.  
 
Social History:
___
Family History:
No history of sleep apnea, heart disease or lung disease. 
.

 
Physical Exam:
VS: 97.4 153/84 75 24 92% on RA  
GEN: NAD, obese  
HEENT: MMM, no OP lesions, thyroid and adenopathy difficult to 
assess due to habitus, JVP difficult to assess due to habitus  
CV: RR, NL S1S2 no MRG, no S3S4  
PULM: Diffuse mild crackles, poor air movement generally  
ABD: BS+, soft, NTND, no masses or HSM, no stigmata of liver 
disease  
LIMBS: 3+ ___ edema to the knees, LLE erythema to the upper calf  

SKIN: No skin breakdown, multiple scars from injections and 
necrosis, multiple hypopigmented plaques consistent with ?CA 
MRSA  
NEURO: Nonfocal, reflexes 1+ diffusely, toes down bilaterally  
.  

 
Pertinent Results:
LAB DATA:
___ WBC-10.8 Hgb-12.5* Hct-37.9* MCV-84 MCH-27.6 RDW-15.8* 
Plt ___
___ Neuts-78.1* Lymphs-15.6* Monos-3.0 Eos-3.0 Baso-0.2
___ Glucose-100 UreaN-12 Creat-0.8 Na-141 K-3.9 Cl-102 
HCO3-30
___ ALT-58* AST-52* LD(LDH)-235 AlkPhos-116 TotBili-0.5
___ proBNP-602*
___ Albumin-3.9 Calcium-9.2 Phos-3.8 Mg-2.1 
___ Cholest-202* Triglyc-344* HDL-42 CHOL/HD-4.8 LDLcalc-91
___ ASA-NEG Ethanol-32* Acetmnp-NEG Bnzodzp-NEG Barbitr-NEG 
Tricycl-NEG
.
___ blood cx x 2 no growth to date at time of discharge
.
IMAGING:
CXR (PA and lat):  The study is somewhat compromised secondary 
to body habitus. There is linear atelectasis seen laterally in 
the left lung. No consolidation is evident. There is mild 
central vascular congestion without overt failure noted. The 
mediastinum is prominent similar to prior and presumably due to 
mediastinal lipomatosis. The cardiac silhouette is borderline 
enlarged but stable likely accentuated by low lung volumes. No 
effusion or pneumothorax is noted. Mild degenerative disease is 
seen in the lower thoracic spine. 
.
 
Brief Hospital Course:
  
# CHF exacerbation: Triggered by noncompliance with diuretics 
low sodium diet. Additionally has high free water intake with 
heavy beer intake.  Pt was diuresed with lasix.  He was 
initiated on lisinopril and carvedilol as well, to be uptitrated 
as an outpatient.  Also had a nutrition consult for low salt 
diet education. He will follow-up with his PCP within one week 
for lab work as well as medication titration.  He was also set 
up with a ___ to monitor signs of CHF.
.  
# LLE cellulitis: No LLE skin breakdown, but nidus could be old 
injection scar on dorsum of L foot. Improved with bactrim and he 
was discharged to complete a 7 day course. 
.  
# OSA:  Continued home BiPAP. 
.  
# Alcohol abuse: Positive serum alcohol in the ED. Known heavy 
drinker.  No evidence of withdrawal during this admission.  He 
was discharged on multivitamin and thiamine.  He is already in 
counseling for his addictions and was not able to be seen by SW 
as it was the weekend.  His ___ will provide outpatient SW.
.  
# Methadone maintenance for history of heroin abuse:  Continued 
home methadone 110mg PO daily.
.  
# Pulmonary Nodule: There was a question of persistent R 
pulmonary nodule on CXR.  Concerning in a Pt with a heavy 
smoking history.  This will need outpatient follow-up.
.  
# ___ abuse:  He was counseled to stop smoking.  Used a 
nicotine patch in-house and was given a prescription on 
discharge.
.
 
Medications on Admission:
Methadone 110mg PO daily
.
 
Discharge Medications:
1. Thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
2. Methadone 10 mg Tablet Sig: Eleven (11) Tablet PO DAILY 
(Daily).  
3. Sulfamethoxazole-Trimethoprim 800-160 mg Tablet Sig: One (1) 
Tablet PO TID (3 times a day) for 5 days.
Disp:*15 Tablet(s)* Refills:*0*
4. Furosemide 20 mg Tablet Sig: One (1) Tablet PO twice a day.
Disp:*60 Tablet(s)* Refills:*2*
5. Carvedilol 3.125 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).
Disp:*60 Tablet(s)* Refills:*2*
6. Lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
7. Multivitamin     Tablet Sig: One (1) Tablet PO once a day.  
8. Nicotine 21 mg/24 hr Patch 24 hr Sig: One (1)  Transdermal 
once a day.
Disp:*30 patches* Refills:*0*
.
 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Acute diastolic congestive heart failure
LLE cellulitis
.
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
.
 
Discharge Instructions:
You were admitted to the hospital for an exacerbation of 
congestive heart failure.  It is important to take all 
medications as prescribed and adhere to a low salt diet to 
prevent this happening again in the future.  You were also 
treated with antibiotics for left leg cellulitis.
.
 
Followup Instructions:
___